US05011927
(b) 2-Amino-6-fluoro-4-methoxypyrimidine
13.6 g (0.8 mol) of ammonia in 30 ml of methyl tert.-butyl ether were added at -20° to -10° C. to a stirred mixture of 52 g (0.356 mol) of 2,4-difluoro-6-methoxypyrimidine in 300 ml of methyl tert.-butyl ether within 20 minutes. After a further 2 hours at -15° C. and 3 hours at 25° C., the precipitate was filtered off with suction, washed with methyl tert.-butyl ether, stirred with water, filtered off, washed again and subsequently dried, resulting in 36.1 g (71% of theory) of the title compound of melting point 171°-173° C.

reactant | ammonia | 0.8 mol, 13.6 g | N | H3N
reactant | 2,4-difluoro-6-methoxypyrimidine | 0.356 mol, 52 g | FC1=NC(=CC(=N1)F)OC | C5H4F2N2O
solvent | methyl tert.-butyl ether | 30 ml | C(C)(C)(C)OC | C5H12O
solvent | methyl tert.-butyl ether | 300 ml | C(C)(C)(C)OC | C5H12O
product | 2-Amino-6-fluoro-4-methoxypyrimidine | NC1=NC(=CC(=N1)OC)F | C5H6FN3O
